US04939241
To a solution of O-(2-amino-3-hydroxy-4,4,4-trifluoro-1-oxobutyl)-N-trifluoroacetyl-L-serine (685 mg) and chloroacetic acid (0.04 ml) in water (7 ml) was added sodium nitrite (227 mg) at room temperature. After stirring for 30 minutes at room temperature, the reaction mixture was neutrized with 2M tris buffer solution to pH 7.0 to 7.3 and then Acylase I (acylase, Sigma A-7264, made by Sigma Chemicals) (140 mg) was added. The mixture was stirred for 6 hours at room temperature and chromatographed on carbon (60 ml) eluting successively with water and a 9:1 mixture of water and acetone to give a crude product, which was chromatographed on preparative thin layer chromatography eluting with a 65:35:4 mixture of chloroform, methanol and water, and lyophilized to give O-(2-diazo-3-hydroxy-4,4,4-trifluoro-1-oxobutyl)-L-serine (113 mg).

reactant | O-(2-amino-3-hydroxy-4,4,4-trifluoro-1-oxobutyl)-N-trifluoroacetyl-L-serine | 685 mg | NC(C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O)C(C(F)(F)F)O | C9H10F6N2O6
reactant | chloroacetic acid | 0.04 ml | ClCC(=O)O | C2H3ClO2
reactant | sodium nitrite | 227 mg | N(=O)[O-].[Na+]
solvent | water | 7 ml | O | H2O
product | O-(2-diazo-3-hydroxy-4,4,4-trifluoro-1-oxobutyl)-L-serine | 113 mg | [N+](=[N-])=C(C(=O)OC[C@H](N)C(=O)O)C(C(F)(F)F)O | C7H8F3N3O5
